US04554275
Nicotinic acid (2.98 grams) was dissolved in 40 ml of pyridine, 1.39 grams of methanesulfonyl chloride was added thereto, and the mixture was heated to reflux for thirty minutes. Then 2.7 grams of 2,4-diamino-6-(1-methoxy-4-naphthyl)-s-triazine was added thereto, the mixture was heated to reflux for four hours, and the refluxing was continued for three hours more after addition of 0.35 gram of methane sulfonyl chloride. After the reaction was completed, pyridine was evaporated therefrom, water was added to the residue, the crystals separated out were collected by filtration, well washed with water, added to 130 ml of methyl alcohol, the mixture was heated to reflux for twenty minutes, and the crystals were collected by filtration when the solution was still hot. The crystals were then suspended in 50 ml of methyl alcohol, the suspension was heated to reflux for three hours, and dioxane was added to the suspension to afford 2-amino-4-nicotinoyl-amino-6-(1-methoxy-4-naphthyl)-s-triazine, beige needles, melting point 208° to 209° C. The yield was 1.84 grams.

reactant | Nicotinic acid | 2.98 grams | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | methanesulfonyl chloride | 1.39 grams | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,4-diamino-6-(1-methoxy-4-naphthyl)-s-triazine | 2.7 grams | NC1=NC(=NC(=N1)N)C1=CC=C(C2=CC=CC=C12)OC | C14H13N5O
reactant | methane sulfonyl chloride | 0.35 gram | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-4-nicotinoyl-amino-6-(1-methoxy-4-naphthyl)-s-triazine | NC1N(C(=NC(=N1)C(C1=CN=CC=C1)=O)C1=CC=C(C2=CC=CC=C12)OC)N | C20H18N6O2
